US04753951
A suspension of 1.34 g of 4-ethylamino-3-nitroquinoline in 40 ml of ethanol is hydrogenated in the presence of 10% palladium on carbon according to the procedure of Referential Example 1, followed by purification to give 0.95 g (82%) of 3-amino-4-ethylaminoquinoline A16 as an oil.

reactant | 4-ethylamino-3-nitroquinoline | 1.34 g | C(C)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C11H11N3O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 3-amino-4-ethylaminoquinoline | 0.95 g, 82% | NC=1C=NC2=CC=CC=C2C1NCC | C11H13N3
